US08975398B2
2,2,2-trifluoro-N-(4-(pyridin-4-ylmethyl)phenyl)acetamide
A solution of 4-(pyridin-4-ylmethyl)aniline (21.6 g, 117 mmol) and triethylamine (19.61 ml, 141 mmol) in dichloromethane (586 ml) was cooled to 0° C. Trifluoroacetic anhydride (19.87 ml, 141 mmol) was added dropwise via additional funnel over a period of 20 minutes. The mixture was stirred at 0° C. for 1 hour and then at room temperature for 2 hours. The reaction mixture was then concentrated in vacuo and the resulting residue was purified by regular phase column chromatography to give the title compound.

reactant | 4-(pyridin-4-ylmethyl)aniline | 117 mmol, 21.6 g | N1=CC=C(C=C1)CC1=CC=C(N)C=C1 | C12H12N2
reactant | triethylamine | 141 mmol, 19.61 ml | C(C)N(CC)CC | C6H15N
reactant | Trifluoroacetic anhydride | 141 mmol, 19.87 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 586 ml | ClCCl | CH2Cl2
product | 2,2,2-trifluoro-N-(4-(pyridin-4-ylmethyl)phenyl)acetamide | FC(C(=O)NC1=CC=C(C=C1)CC1=CC=NC=C1)(F)F | C14H11F3N2O
